US04631286
3,4-Dihydro-9-methylamino-7-nitroacridin-1(2H)-one
In 100 ml of concentrated H2SO4 at 0° C. was added 4.83 g of 3,4-dihydro-9-(methylamino)acridin-1(2H)-one. While maintaining the reaction at 0° C., 1.92 ml (1 eq) of concentrated HNO3 (70 wt %) was added dropwise over 10 minutes. Since the reaction appeared complete after the addition based on thin layer chromatography, the reaction mixture was poured into ice and neutralized with 50% NaOH. At the basic point a precipitate formed. This was filtered and chromatographed on silica gel (EtOAc) and the product was recrystallized from dichloromethane/hexanes to yield 2.75 g (47%) of a solid, melting point 208° C.

reactant | 3,4-dihydro-9-(methylamino)acridin-1(2H)-one | 4.83 g | CNC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C14H14N2O
reactant | HNO3 | 1.92 ml, 1 eq | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
product | 3,4-Dihydro-9-methylamino-7-nitroacridin-1(2H)-one | 2.75 g, 47% | CNC=1C2=CC(=CC=C2N=C2CCCC(C12)=O)[N+](=O)[O-] | C14H13N3O3
